US07932394B2
(Step 2) Production of methyl 5-[4-(ethylsulfonyl)phenoxy]-2-nitrobenzoate
11 g of potassium carbonate was added to a dimethylformamide (150 ml) solution of 10.7 g of methyl 5-fluoro-2-nitrobenzoate and 11.1 g of 4-(ethylsulfonyl)phenol obtained from Reference Example 2, and stirred under heat at 80° C. for 90 minutes. The reaction liquid was restored to room temperature, then 300 ml of water was added to it, and the formed solid was taken out through filtration. This was dried under reduced pressure to obtain 19.7 g of the entitled compound as a creamy white solid.

reactant | potassium carbonate | 11 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
reactant | methyl 5-fluoro-2-nitrobenzoate | 10.7 g | FC=1C=CC(=C(C(=O)OC)C1)[N+](=O)[O-] | C8H6FNO4
reactant | 4-(ethylsulfonyl)phenol | 11.1 g | C(C)S(=O)(=O)C1=CC=C(C=C1)O | C8H10O3S
solvent | water | 300 ml | O | H2O
product | methyl 5-[4-(ethylsulfonyl)phenoxy]-2-nitrobenzoate | 19.7 g | C(C)S(=O)(=O)C1=CC=C(OC=2C=CC(=C(C(=O)OC)C2)[N+](=O)[O-])C=C1 | C16H15NO7S
